US07732618B2
a.) {5-[Benzyl-(4-chloro-benzoyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester. (Scheme 2)
4-Chloro-benzoyl chloride (46 μL, 0.36 mmol) was added to a solution of (5-benzylamino-2-propyl-benzoimidazol-1-yl)-acetic acid tert-butyl ester (45 mg, 0.12 mmol), DIEA (41 μL, 0.24 mmol) and DMAP (15 mg, 0.12 mmol) in CH2Cl2 (1 mL), and stirred overnight at room temperature. The reaction solution was diluted with aqueous HCl (1.0 M) and filtered through an Extrelut column. The Extrelut column was washed with CH2Cl2, and the filtrate was concentrated to afford the subtitle compound that was used without further purification. MS calculated for C30H32ClN3O3+H: 518, observed: 518.

reactant | 4-Chloro-benzoyl chloride | 0.36 mmol, 46 μL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | (5-benzylamino-2-propyl-benzoimidazol-1-yl)-acetic acid tert-butyl ester | 0.12 mmol, 45 mg | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)NCC2=CC=CC=C2)CCC)=O | C23H29N3O2
reactant | DIEA | 0.24 mmol, 41 μL | CCN(C(C)C)C(C)C | C8H19N
catalyst | DMAP | 0.12 mmol, 15 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | 1.0 M | Cl | ClH
product | {5-[Benzyl-(4-chloro-benzoyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)N(C(C2=CC=C(C=C2)Cl)=O)CC2=CC=CC=C2)CCC)=O | C30H32ClN3O3
